US09034866B2
Synthesis of 9-[(R)-3-Hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-8-methyl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
Following Procedure F, 10-bromo-9-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound as a colorless solid after purification by reverse-phase HPLC. LCMS: 393.1 [M+H]+; 1H NMR (400 MHz, DMSO) δ 8.46 (s, 1H), 7.76 (s, 1H), 7.49 (s, 1H), 7.08 (s, 1H), 7.03 (s, 1H), 6.95 (s, 1H), 6.45 (s, 1H), 6.35 (s, 1H), 4.46 (s, 4H), 2.41 (s, 3H), 2.34 (s, 3H), 1.81 (s, 3H).

reactant | 10-bromo-9-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)C | C13H12BrN3O2
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 9-[(R)-3-Hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-8-methyl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | O[C@@](C#CC=1C(=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)C)(C)C1=NOC(=C1)C | C21H20N4O4
